US05162318
To a solution of N-ethoxycarbonyl-N-(2-nitrophenyl)-N',N'-dimethylethylenediamine (1.08 g) in methanol (25 ml) was added 10% palladium-on-carbon (0.1 g). The mixture was stirred under a hydrogen atmosphere at atmospheric pressure for 30 minutes, and filtered. The solvent was distilled off under reduced pressure to give 0.93 g of N-(2-aminophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine.

reactant | N-ethoxycarbonyl-N-(2-nitrophenyl)-N',N'-dimethylethylenediamine | 1.08 g | C(C)OC(=O)N(CCN(C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C13H19N3O4
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | N-(2-aminophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine | 0.93 g | NC1=C(C=CC=C1)N(CCN(C)C)C(=O)OCC | C13H21N3O2
